US06919332B2
To a mixture of 5-fluoro-2-nitrotoluene (7.0 grams, 45 mmol), 4-methoxyphenol (6.2 grams, 50 mmol) and dimethylformamide (45 mL) was added potassium tert-butoxide (5.1 grams, 45 mmol). After stirring at room temperature for 24 hours, the mixture was diluted with water, acidified with 1 M aqueous hydrochloric acid, and the aqueous phase was extracted 3 times with ether. The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by silica gel chromatography eluting with 0-20% ethyl acetate-hexane afforded 3.5 grams of 4-(4-methoxy-phenoxy)-2-methylnitrobenzene as a yellow solid.

reactant | 5-fluoro-2-nitrotoluene | 45 mmol, 7.0 grams | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | 4-methoxyphenol | 50 mmol, 6.2 grams | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium tert-butoxide | 45 mmol, 5.1 grams | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
product | 4-(4-methoxy-phenoxy)-2-methylnitrobenzene | 3.5 grams | COC1=CC=C(OC2=CC(=C(C=C2)[N+](=O)[O-])C)C=C1 | C14H13NO4
